US05776932
1-[1-(3,4-Dichlorobenzyl)-3-hydroxy-1H-indazole-5-yl]-3-(4-methoxyphenyl) urea
1.54.g 5-amino-1-(3,4-dichlorobenzyl)-1H-indazole-3-ol and 1.12 g 4-methoxyphenyl isocyanate are stirred in 75 ml tetrahydrofuran for 5 hours at room temperature. the solution is concentrated to one third of its volume under vacuum and the precipitate crystallized out after cooling is filtered off under suction. It is recrystallized from n-butanol.

reactant | 5-amino-1-(3,4-dichlorobenzyl)-1H-indazole-3-ol | NC=1C=C2C(=NN(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)O | C14H11Cl2N3O
reactant | 4-methoxyphenyl isocyanate | 1.12 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-[1-(3,4-Dichlorobenzyl)-3-hydroxy-1H-indazole-5-yl]-3-(4-methoxyphenyl) urea | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)NC(=O)NC2=CC=C(C=C2)OC)O)C=CC1Cl | C22H18Cl2N4O3
